US07049438B2
A mixture of methyl 2-amino-4,6-dibenzyloxybenzoate (7.7 g), formamidine acetate (7.2 g) and 2-methoxyethanol (100 ml) was stirred and heated to reflux until all of the starting material had reacted. The mixture was evaporated and the residue was triturated under water (60 ml). The resultant solid was isolated, washed with water and dried under vacuum to give 5,7-dibenzyloxy-3,4-dihydroquinazolin-4-one (6.8 g); NMR Spectrum: (DMSOd6) 5.24 (s, 4H), 6.75 (s, 1H), 6.8 (s, 1H), 7.3–7.7 (m, 10H), 7.95 (s, 1H), 11.75 (br s, 1H).

reactant | methyl 2-amino-4,6-dibenzyloxybenzoate | 7.7 g | NC1=C(C(=O)OC)C(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H21NO4
reactant | formamidine acetate | 7.2 g | C(C)(=O)O.C(=N)N
solvent | 2-methoxyethanol | 100 ml | COCCO | C3H8O2
product | 5,7-dibenzyloxy-3,4-dihydroquinazolin-4-one | 6.8 g | C(C1=CC=CC=C1)OC1=C2C(NC=NC2=CC(=C1)OCC1=CC=CC=C1)=O | C22H18N2O3
